US04005049
29.1 Grams (0.1 mole) of cobalt nitrate. 6H2O in 200 ml. of water were added to 200 ml. of 1 N sodium hydroxide to precipitate cobalt (II) hydroxide. The precipitate was filtered and washed. 16.6 Grams (0.1 mole) of isophthalic acid and 300 ml. of water were added to the precipitate. The mixture was stirred and heated at 75°C. for 14 hours until all solids dissolved. The solution was evaporated to yield 20.0 grams of cobalt (II) isophthalate which analyzed: C, 39.7%; H, 3.0%; Co, 15.0%.

reactant | cobalt nitrate | 0.1 mole | [N+](=O)([O-])[O-].[Co+2].[N+](=O)([O-])[O-]
reactant | isophthalic acid | 0.1 mole | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
solvent | water | O | H2O
product | cobalt (II) isophthalate | 20.0 grams | C(C1=CC(C(=O)[O-])=CC=C1)(=O)[O-].[Co+2] | InChI=1S/C8H6O4.Co/c9-7(10)5-2-1-3-6(4-5)8(11)12;/h1-4H,(H,9,10)(H,11,12);/q;+2/p-2
